US06982274B2
Benzo[b]furan-2-yl-(3-bromo-6-fluoro-2-methoxy-phenyl)-methanol
In an atmosphere of nitrogen gas, 3.56 ml of a 2.66 M solution of n-butyllithium in hexane was added to a solution of 1.12 g of 2,3-benzofuran in 10 ml tetrahydrofuran at −78° C. After stirring at the same temperature for 10 minutes, the mixture was stirred under ice-cooling for 15 minutes and was then stirred at −78° C. for 8 minutes. Then, a solution of 2 g of 3-bromo-6-fluoro-2-methoxy-benzaldehyde in 3.5 ml tetrahydrofuran was added dropwise at the same temperature. After stirring at the same temperature for 30 minutes, saturated aqueous ammonium chloride solution was added at the same temperature. Water was added at room temperature and the mixture was extracted with diethyl ether for two times. The organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography, to give 2 g of the title compound as a yellow oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,3-benzofuran | 1.12 g | C1=CC=C2C(=C1)C=CO2 | C8H6O
reactant | 3-bromo-6-fluoro-2-methoxy-benzaldehyde | 2 g | BrC=1C(=C(C=O)C(=CC1)F)OC | C8H6BrFO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | Benzo[b]furan-2-yl-(3-bromo-6-fluoro-2-methoxy-phenyl)-methanol | 2 g | O1C2=C(C=C1C(O)C1=C(C(=CC=C1F)Br)OC)C=CC=C2 | C16H12BrFO3
